US09210927B2
Preparation of 4-(Bromomethyl)-3-chlorobenzonitrile (CI10)
To a stirred solution of 3-chloro-4-methylbenzonitrile (5 g, 25.4 mmol) in carbon tetrachloride (CCl4; 50 mL) under an argon atmosphere was added NBS (5.16 g, 29 mmol), and the mixture was degassed for 30 min. To this was added azobisisobutyronitrile (AIBN; 0.3 g, 1.8 mmol), and the resultant reaction mixture was heated at reflux for 4 h. The reaction mixture was cooled to ambient temperature, washed with H2O, and extracted with CH2Cl2. The combined CH2Cl2 layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The crude compound was purified by flash column chromatography (SiO2, 100-200 mesh; 5% EtOAc in n-Hexane) to afford the title compound as a white solid (4.8 g, 68%): mp 87-88° C.; 1H NMR (400 MHz, CDCl3) δ 7.71 (s, 1H), 7.59 (s, 2H), 4.60 (s, 2H); ESIMS m/z 229.77 ([M+H]+); IR (thin film) 2235, 752, 621 cm−1.

reactant | 3-chloro-4-methylbenzonitrile | 25.4 mmol, 5 g | ClC=1C=C(C#N)C=CC1C | C8H6ClN
reactant | NBS | 29 mmol, 5.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 1.8 mmol, 0.3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 4-(Bromomethyl)-3-chlorobenzonitrile | 4.8 g, 68% | BrCC1=C(C=C(C#N)C=C1)Cl | C8H5BrClN
